US06077965
a) 2,5,5-trimethylcyclohexane-1,3-dione
28.0 g (0.2 mol) of dimedone were dissolved in 150 ml of absolute t-butanol and, at 40° C., 22.4 g (0.2 mol) of potassium t-butoxide were added a little at a time. After 2 hours, an equimolar amount of methyl iodide was added. After a further 2 hours, the solvent was removed under reduced pressure and the residue which remained was extracted 3 times with diethyl ether. The combined ether extracts were evaporated to dryness. Yield: 26.2 g (85%). The crude product was not purified further.

reactant | dimedone | 0.2 mol, 28.0 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | potassium t-butoxide | 0.2 mol, 22.4 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | CI | CH3I
solvent | t-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 2,5,5-trimethylcyclohexane-1,3-dione | CC1C(CC(CC1=O)(C)C)=O | C9H14O2
